US09078897B1
Manufacture of Unencapsulated (or Free) Ciprofloxacin:
Under aseptic manufacturing conditions, ciprofloxacin-HCl as powder was dissolved in 10 mM sodium acetate solution, pH 3.3 and sterile filtered resulting in a 24 mg/mL solution.

reactant | ciprofloxacin HCl | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4.Cl
solvent | sodium acetate | 10 mM | C(C)(=O)[O-].[Na+]
product | Ciprofloxacin | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4 | C17H18FN3O3
